US07696223B2
a) 2-Methyl-1H-indole-3-carboxylic acid ethyl ester
A mixture of 2-iodo-phenylamine (44.30 g, 202 mmol), sodium salt of ethyl acetoacetate (42.1 g, 263 mmol), and Cu(I)I (50.1 g, 263 mmol) in DMF (200 mL) was stirred at 120° C. overnight. Then the reaction mixture was cooled to room temperature, then diluted with methyl tert-butyl ether (MTBE) and water, and concentrated ammonia was added to dissolve the solid, the two layers were separated, the water layer was back extracted with MTBE; all MTBEs were combined and washed with sat. NaCl aqueous solution, dried over anhydrous sodium sulfate, filtered, and concentrated sequentially. The residue was crystallized in hexanes/EtOAc, giving the desired product (10.84 g), the mother liquor was concentrated and purified on column to give an additional batch of product (4.76 g). The title compound, 1H NMR (200 MHz, CDCl3): δ (ppm)=8.32 (1H), 8.09 (m, 1H), 7.31-7.13 (m, 3H), 4.39 (q, 2H, J=6.8 Hz), 2.74 (s, 3H), 1.45 (t, 3H, J=6.8 Hz).

reactant | 2-iodo-phenylamine | 202 mmol, 44.30 g | IC1=C(C=CC=C1)N | C6H6IN
reactant | sodium | [Na] | Na
reactant | ethyl acetoacetate | 263 mmol, 42.1 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
solvent | water | O | H2O
solvent | ammonia | N | H3N
product | 2-Methyl-1H-indole-3-carboxylic acid ethyl ester | 10.84 g | C(C)OC(=O)C1=C(NC2=CC=CC=C12)C | C12H13NO2
